Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Briefly, this is a ___ with a reported hx of cirrhosis, EtOH
abuse, bipolar disorder, TBI ___ domestic violence initially
admitted presenting to ___ after being found down
outside of the homeless shelter where she currently stays,
transferred to ___ for hypotension and hypoxia given lack of
ICU beds at ___, now called out from ICU. History is
obtained from review of records, and corroborated with patient 
as
possible, although her ability to provide history is limited by
cognitive deficits of unknown chronicity. Please see ___
admission note for detailed HPI. Briefly, she endorses using K2
and EtOH prior to being found down, and was apparently found
unresponsive. Triage VS at ___ 97.9, 74, 95/52, 
17,
93% RA. SBP subsequently declined to 81. Further evaluation at
___ was notable for WBC 4.6, ALT/AST ___, 
Albumin
2.9, NH3 13, negative UTox, CXR with "minimal L patchy base
infiltrate." CT head with chronic right frontal and right
occipital encephalomalacia unchanged. Moderate pericentricular
white matter hypoattenuation unchanged. No acute intracranial
process. Pt reportedly required 3L IVF at ___ ED
with intermittent SBP dipping into the ___. She received
ceftriaxone and azithromycin and was transferred to ___ ED
given lack of ICU beds at ___. 

In ___, pt received levofloxacin, and was admitted to ___. In
the FICU, BPs remained stable without additional resuscitation.
Her home psychiatric medications were held in the setting of
altered mental status. A repeat CXR was clear without 
infiltrate;
no further antibiotics were administered. She was called out to
the floor approximately 12 hours after admission to ICU. 

At the time of transfer, pt denies chest pain. She endorses
chronic intermittent dyspnea that is no worse than baseline, and
endorses cough productive of yellow/green sputum x1 day, 
although
prior notes suggest that her productive cough has been present
for days. Full ROS and detailed history is limited by cognitive
impairment.

 
Past Medical History:
Cirrhosis - pt reports that she has been on lactulose in the
past, but not for some unspecified period of time. She denies
having been followed by a gastroenterologist or hepatologist in
the past.
Alcoholism  
Polysubstance abuse  
Bipolar Depression  
History of victim of domestic abuse with TBI  

 
Social History:
___
Family History:
Denies cancer, possible diabetes on mother's side 
 
Physical ___:
Admission PE:
98.1, 127/76, 87, 96% RA
GEN:  alert and oriented to person, ___ only, ___ but
unable to name this building or type of building. Slightly
disheveled, in NAD. 
HEENT:  PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, dry mucus membranes. Poor dentition.
LYMPH:  no anterior/posterior cervical,
supraclavicular adenopathy
CARDIOVASCULAR:  PMI nondisplaced, regular rate and rhythm
without murmurs, rubs, or gallops
LUNGS:  clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
ABDOMEN:  soft, nontender, without rebounding or
guarding, nondistended with hypoactive bowel
sounds.  no hepatomegaly. No spider angioma, palmar erythema, or
fluid wave. +Asterixis
EXTREMITIES:  no clubbing, cyanosis, or edema
SKIN:  no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO:  Alert and interactive, oriented x1-2 as above, speech is
intermittently muttering and then coherent, tangential, with
inattention. Gait is WNL. Motor exam grossly intact and
symmetric.

Discharge PE:
T: 97.5 HR 75 BP ___ 96% RA
Gen: NAD, resting comfortably in bed
HEENT: EOMI, PERRLA, MMM, OP clear
CV: RRR nl s1s2 no m/r/g
Resp: CTAB no w/r/r
Abd: soft, NT, ND +BS
Ext: no c/c/e
Neuro/psych: AAO x3 but very tangential. CN II-XII intact, ___ 
strength throughout.
 
Pertinent Results:
___ 05:36PM   GLUCOSE-70 UREA N-13 CREAT-0.8 SODIUM-142 
POTASSIUM-4.3 CHLORIDE-113* TOTAL CO2-25 ANION GAP-8
___ 05:36PM   CALCIUM-8.5 PHOSPHATE-3.3 MAGNESIUM-2.0
___ 05:36PM   WBC-5.0 RBC-3.46* HGB-10.6* HCT-33.3* MCV-96 
MCH-30.6 MCHC-31.8* RDW-14.3 RDWSD-50.3*
___ 05:36PM   ___ PTT-28.2 ___

TSH: 0.14

Portable chest ___:
IMPRESSION:  
  
No previous images.  Allowing for the lordotic view, the cardiac 
silhouette is 
within normal limits and there is no evidence of vascular 
congestion, pleural 
effusion, or acute focal pneumonia. 

 
Brief Hospital Course:
___ with hx of cirrhosis, EtOH abuse, ?___ transferred from 
___ with hypotension, hypoxia, and AMS after being found 
down, now stabilized and called out of ICU.  

# Encephalopathy: Reported ingestion of alcohol and synthetic 
marijauana prior to being found down in front of a homeless 
shelter, pt unable to define last EtOH. Urine tox screen 
negative at ___. CT head negative for acute process at 
___. DDx for encephalopathy includes toxic in setting of 
ingestion, hepatic encephalopathy, ___ syncope. Reported 
hypotension resolved with 3L IVF, and hypoxia has resolved. 
Returned to baseline mental status.  There was no evidence of 
active intoxication or withdrawal on discharge.
- Follow-up with PCP
-___ home psychiatric medications.

# Hypoxia: Patient had new oxygen requirement to 3L NC in 
setting of suspected aspiration event after being found down. 
Although there are reports of a L basilar infiltrate on CXR at 
___, this appears to have resolved on repeat CXR 
at ___. On room air without any pulmonary symptoms.  
Antibiotics discontinued.

# Hypotension: Presented to ___ with hypotension to 79/50 
with recovery of pressures after 3L volume resuscitation. 
Normotensive on admission to ___ at 130/80. As above, no 
convincing evidence of active infection, likely ___ ingestion. 
No evidence of blood loss, hypoxia resolved with IVF arguing 
against obstructive etiology for shock such as PE.  
  
# Depression/Psychiatric Disease: 
-Continue home psychiatric medications.
-Counselled on importance of not taking illicit substances.
 
# FEN: regular diet  

# Prophylaxis: Subcutaneous heparin  

# Communication: ___: ___  

# Code: Full, presumed  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO TID 
2. Paroxetine 30 mg PO DAILY 
3. QUEtiapine Fumarate 300 mg PO QHS 
4. DiphenhydrAMINE 50 mg PO QHS 
5. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
PRN SOB 
6. FoLIC Acid 1 mg PO DAILY 
7. Ibuprofen 600 mg PO Q8H:PRN pain 
8. Acetaminophen 650 mg PO Q8H:PRN pain 

 
Discharge Medications:
1. FoLIC Acid 1 mg PO DAILY 
2. Gabapentin 300 mg PO TID 
3. Paroxetine 30 mg PO DAILY 
4. Acetaminophen 650 mg PO Q8H:PRN pain 
5. DiphenhydrAMINE 50 mg PO QHS 
6. Ibuprofen 600 mg PO Q8H:PRN pain 
7. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
PRN SOB 
8. QUEtiapine Fumarate 300 mg PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Toxic metabolic encephalopathy
Drug overdose

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were found down outside of your shelter and were initially 
brought to the ___.  You had low blood pressure and were 
transferred to the ICU at ___.  Your low blood pressure 
resolved and there was no evidence of infections.  The low blood 
pressure was likely due to the drugs that you were taking.  We 
strongly recommend avoiding illicit drugs in the future.
 
Followup Instructions:
___